US08227601B2
To a suspension of 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidine (75 mg, 0.24 mmol) and 4-aminobenzonitrile (113 mg, 0.96 mmol) in 2,2,2-trifluoroethanol (4 mL) in a sealed tube was added trifluoroacetic acid (0.15 mL, 1.92 mmol). The resulting solution was heated at 90° C. for 3 days. The reaction was diluted with EtOAc (50 mL), washed with NaHCO3 (20 mL) and brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (CH2Cl2:Acetone 90:10) yielded 15 mg (16%) of 4-(4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzonitrile as a tan solid.

reactant | 2-chloro-4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidine | 0.24 mmol, 75 mg | ClC=1N=C(C2=C(N1)NC=C2)OC2=C(C=C(C=C2C)C2CC2)C | C17H16ClN3O
reactant | 4-aminobenzonitrile | 0.96 mmol, 113 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | trifluoroacetic acid | 1.92 mmol, 0.15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2,2,2-trifluoroethanol | 4 mL | FC(CO)(F)F | C2H3F3O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(4-(4-cyclopropyl-2,6-dimethylphenoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzonitrile | 15 mg, 16% | C1(CC1)C1=CC(=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)NC=C3)C(=C1)C)C | C24H21N5O
